US05098924
To a solution of (S)-α-[[(1,1-dimethylethoxy)-carbonyl]amino]cyclohexanepropanoic acid (93 g., 343 mmole) in dry tetrahydrofuran (1 1.) was added a 20% molar excess of 1,1'-carbonyldiimidazole over a period of less than 10 minutes with very efficient stirring to keep the internal temperature below 30° . After stirring for 30 minutes, N,O-dimethylhydroxylamine hydrochloride (36.8 g., 377 mmole) was added, followed by triethylamine (38.2 g., 377 mmole). After stirring at room temperature for 4 hours, the reaction mixture was filtered and the resulting filtrate was concentrated in vacuo. The amber colored residue (100 g.) was dissolved in ether (900 ml.) and poured into 1N HCl (1 l.). The acidic aqueous phase was separated, further extracted with ether and the combined ethereal solutions were washed with water, saturated sodium bicarbonate, water, and brine, then dried (MgSO4) to give (S)-α-[[(1,1-dimethylethoxy)-carbonyl]amino]-N-methoxy-N-methylcyclohexane-propanamide as a colorless oil. [α]D =-12.9° (c=1, methanol). TLC (silica gel; 1:1, ethyl acetate:hexanes) Rf =0.58.

reactant | (S)-α-[[(1,1-dimethylethoxy)-carbonyl]amino]cyclohexanepropanoic acid | 343 mmole, 93 g | CC(C)(OC(=O)N[C@H](C(=O)O)CC1CCCCC1)C | C14H25NO4
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,O-dimethylhydroxylamine hydrochloride | 377 mmole, 36.8 g | Cl.CNOC
reactant | triethylamine | 377 mmole, 38.2 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (S)-α-[[(1,1-dimethylethoxy)-carbonyl]amino]-N-methoxy-N-methylcyclohexane-propanamide | CC(C)(OC(=O)N[C@H](C(=O)N(C)OC)CC1CCCCC1)C | C16H30N2O4
